US07276601B2
Preparation of 2-[3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]-6-chloro-8-methyl-4H-3,1-benzoxazin-4-one
To a solution of methanesulfonyl chloride (5.0 mL, 7.4 g, 65 mmol) in acetonitrile (55 mL) at −5° C. was added dropwise a solution of 3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylic acid (see WO 03/015519 for preparation) (93.6% purity, 16.16 g, 50.0 mmol) and 3-picoline (8.3 mL, 7.9 g, 85 mmol) in acetonitrile (50 mL) over five minutes while maintaining the temperature at about −5 to 0° C. A slurry formed during the addition. The mixture was stirred for 5 minutes at this temperature, and then 6-chloro-8-methyl-1H-benzo[d][1,3]oxazine-2,4-dione (99.0% purity, 11.22 g, 52.5 mmol) was added all at once, and the residue was rinsed with acetonitrile (10 mL). To the reaction mixture was added 3-picoline (8.3 mL, 7.9 g, 85 mmol) dropwise in 5 minutes at −5 to 0° C. After stirring for 15 minutes at −5 to 0° C., the reaction mixture was heated to 50° C. and stirred 4 hours. Then the reaction mixture was cooled to room temperature, water (30 mL) was added dropwise and the mixture was stirred 15 minutes. The mixture was filtered, and the solids were re-slurried sequentially with 4:1 acetonitrile-water (2×40 mL) and acetonitrile (3×40 mL), and then dried under nitrogen to afford the title product as a light yellow powder, 20.95 g (93.6% purity by HPLC, 86.7% yield calculated based on the purity).

reactant | methanesulfonyl chloride | 65 mmol, 5.0 mL, 7.4 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylic acid | 50.0 mmol, 16.16 g | BrC1=NN(C(=C1)C(=O)O)C1=NC=CC=C1Cl | C9H5BrClN3O2
reactant | 3-picoline | 85 mmol, 8.3 mL, 7.9 g | N1=CC(=CC=C1)C | C6H7N
reactant | 6-chloro-8-methyl-1H-benzo[d][1,3]oxazine-2,4-dione | 52.5 mmol, 11.22 g | ClC1=CC2=C(NC(OC2=O)=O)C(=C1)C | C9H6ClNO3
reactant | 3-picoline | 85 mmol, 8.3 mL, 7.9 g | N1=CC(=CC=C1)C | C6H7N
solvent | acetonitrile | 55 mL | C(C)#N | C2H3N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | water | 30 mL | O | H2O
product | 2-[3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]-6-chloro-8-methyl-4H-3,1-benzoxazin-4-one | 86.7% yield | BrC1=NN(C(=C1)C1=NC2=C(C(O1)=O)C=C(C=C2C)Cl)C2=NC=CC=C2Cl | C17H9BrCl2N4O2
